US07238757B2
2.5 ml (20 mmol) of Et2AlCl are added dropwise at −40° C. to a suspension of 50 ml of diethyl ether and 3.5 g (20 mmol) of (1-ethoxynaphth-1-yl)lithium, prepared from 33 ml (56 mmol) of t-butyllithium (1.7M solution in pentane) and 9.7 g (56 mmol) of 1-ethoxynaphthalene in 200 ml of hexane. The mixture is slowly brought to room temperature and stirred at room temperature for 24 h. The mixture is subsequently decanted off from the solid, the solvent is removed, the residue is taken up in 35 ml of toluene and filtered through a D4 frit. After removal of the toluene, fractional distillation gives (8-ethoxynaphth-1-yl)diethylaluminium as pale-yellow liquid having a boiling point of 146° C. at 0.01 mbar.

reactant | Et2AlCl | 20 mmol, 2.5 ml | [Al](CC)(CC)Cl
reactant | (1-ethoxynaphth-1-yl)lithium | 20 mmol, 3.5 g | C(C)OC1(CC=CC2=CC=CC=C12)[Li]
reactant | t-butyllithium | 56 mmol, 1.7M, 33 ml | C(C)(C)(C)[Li]
reactant | 1-ethoxynaphthalene | 56 mmol, 9.7 g | C(C)OC1=CC=CC2=CC=CC=C12 | C12H12O
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (8-ethoxynaphth-1-yl)diethylaluminium | C(C)OC=1C=CC=C2C=CC=C(C12)[Al](CC)CC | InChI=1S/C12H11O.2C2H5.Al/c1-2-13-12-9-5-7-10-6-3-4-8-11(10)12;2*1-2;/h3-7,9H,2H2,1H3;2*1H2,2H3;
